* Z:\home\mainster\CODES_local\LTSpice_projects\koblitz_EAS_klausuren\SS15_mult.asc
R1 Vpl N002 {R2}
R2 Vpl N003 {R3}
R3 N004 V1 {R1}
V1 V1 0 0
R4 N007 0 1
XU1 Vpl vdc_single V={Vplus}
Q1 N004 N004 N002 0 PNPx
Q2 N007 N004 N003 0 PNPx
QA N001 N001 N005 0 NPNx
QB N001 N001 N006 0 NPNx
R5 N005 VA {Ra}
R6 N006 0 {Rb}
VA VA 0 0
R7 0 NC_01 {R4}
I2 Vpl N001 2m
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.model NPNx NPN (Is = {Ic0/exp(Veb0/26m)} Bf={betaN})
.model PNPx PNP (Is = {Ic0/exp(Veb0/26m)} Bf={betaP})
.dc VA -2.5 2.5 .05
.param mul=1
+ Ic0 = 1000uA
+ betaN = 200
+ betaP = 200
+ Veb0 = 0.65V
+ Vplus = 5V
+ R1 = 4k7
+ R2 = 300
+ R3 = {R2}
.param VAm=1
+ Ra = 1k
+ Rb = 1k
+ R4 = 1.675k
.lib EIT_sub/vdc_single.sub
.backanno
.end
