* Z:\media\data\CODES\LTSpice_projects\koblitz\Klausur_7.1.asc
Q1 C1 B1 0 0 myNPN
R4 E2 C1 1.5k
R2 B1 E2 33k
R3 N003 B1 100k
Q2 0 C1 E2 0 myPNP
R1 B1 N002 3.3k
C1 N002 V1 10µ
V1 N001 0 10
V2 V1 0 ac
Vmin N003 0 -10V
R5 N001 E2 1.5k
C2 out E2 10µ
R6 out 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model myNPN NPN(Bf=200 VA=80)
.model myPNP PNP(Bf=200 VA=80)
.ac oct 100 1 100k
* .ic V(out)=0
.backanno
.end
