* Z:\media\storage\CODES_ln\LTSpice_projects\klausuren_Koblitz\WS13_14_direkt_danach.asc
V1 N006 0 -20
V2 N005 0 6
V3 N002 0 0
Q1 N004 0 N003 0 PNP
R1 N004 N006 10k
R3 N003 N005 9k
D1 N003 N002 D
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.dc V3 -10 10 .01
.temp 27 100
.backanno
.end
