* Z:\media\storage\CODES_ln\LTSpice_projects\koblitz_2012_a\ss2011_klirr.asc
C1 N002 0 1µ
C2 N003 0 1µ
R1 N003 N002 100k
R2 N004 N003 1meg
V1 N004 0 4.17
Q1 N009 N012 0 0 NPNx
R3 N007 N009 10k
R4 N009 N012 1.1meg
V2 N007 0 10
Q2 c1 c4 0 0 NPNx
R5 N001 c1 10k
R6 c3 c1 1meg
R7 c4 c3 100k
C3 c3 0 {c3}
C4 c4 1 1µ
V3 1 0 SINE(0 {5m*1.41} 100k 0)
V4 N001 0 10
Q3 c3bb 0 N011 0 NPNx
R8 N006 c3bb 20k
R9 N006 N010 20k
R10 N011 N010 10k
Q4 N013 b1 N010 0 PNPx
V5 N013 0 -8
V6 b1 0 1
V7 N006 0 8
B1 0 N008 I=7.35/20k-V(b1)/20k-1.3/10k-V(b1)/10k
R11 N008 0 1
B2 N005 0 V=8+20k*(V(b1)+2*0.65)/10k
B3 0 N014 I=(8-0.65-V(b1))/20k
R12 N014 0 1
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.dc V6 -8 8 0.01
.model npnx npn(Bf=200 Is=8.1e-15)
.model pnpx pnp(Bf=200 Is=8.1e-15)
* .ic V(c4)=4.1V\n.ic V(c3)=4.1V
.param c3=1u
;.step param c3 list 1u 1p
.backanno
.end
