
* OPA350 SPICE Macro-model              3/31/99, Rev. B   by Marek Lis
* Rev. A  12/18/98,  by Marek Lis
* REV. B  23 DEC 1998 NEIL ALBAUGH; REVISED CONNECTION NAMES TO MATCH SYMBOL
* Rev. C  3/31/99,  by Marek Lis: added voltage and current noise (1/f noise is NOT modeled.)
* REV. D  1 APR 1999 NEIL ALBAUGH; REVISED CONNECTION NAMES TO MATCH SYMBOL
*
* http://www.ti.com/product/OPA2350/toolssoftware
* OPA350 Family Spice ist auch für OPA2350 gueltig
*
*
* Copyright 1997 by Burr-Brown Corporation

*

*                non-inverting input

*                |  inverting input

*                |  |  positive supply

*                |  |  |   negative supply

*                |  |  |   |   output

*                |  |  |   |   |

*.SUBCKT OPA350   +  -  V+  V-  OUT
.SUBCKT OPA2350   +  -  V+  V-  OUT

* INPUT STAGE

*

i1 V+ 5 400u
m7 550 vswitch 5 5 pix l=20u w=250u m=26
m8 550 550 V- V- nix l=20u w=250u m=26
m9 553a 550 V- V- nix l=20u w=250u m=26
m9c 66 nvsat 553a V- nix l=20u w=250u m=26
Vpvsat V+ vswitch DC 1.8
Vnvsat nvsat V- DC 1.37
iin1 + 98 .5p
iin2 - 98 .5p
d3 5 V+ dx
d4 V- 66 dx
d5 - V+ dx
d6 + V+ dx
d7 V- - dx
d8 V- + dx
rinp 7 7a 500
rinn - 2a 500
m1 33 2a 66 V- nix l=20u w=250u m=13
m2 4 7a 66 V- nix l=20u w=250u m=13
m3 8 2a 5 5 pix l=20u w=250u m=13
m4 9 7a 5 5 pix l=20u w=250u m=13
eos 7 + poly(1) 25 98 0 0
ios - + 0p
r1 V+ 33x 4.833k
r2 V+ 4x 4.833k
r3 8x V- 4.833k
r4 9x V- 4.833k
vr1 33 33x DC 2
vr2 4 4x DC 2
vr3 8x 8 DC 2
vr4 9x 9 DC 2
i1a V+ V- 2464u

*

* GAIN STAGE

*

eref 98 0 poly(2) V+ 0 V- 0 0 0.5 0.5
g1 98 21 poly(2) 4 33 9 8 0 145u 145u
rg 21 98 2.3e6
cc 21 6c 10.6pF
rcc 6c OUT 2.4k
d1 21 22 dx
d2 23 21 dx
v1 V+ 22 1.37
v2 23 V- 1.37


*

* COMMON MODE GAIN STAGE

*

ecm 24 98 poly(2) + 98 - 98 0 0.5 0.5
r5 24 25 1e6
r6 25 98 10k
c1 24 25 0.75p

*

* OUTPUT STAGE

*

isy V+ V- 540.4u
gsy V+ V- poly(1) V+ V- -3.334e-4 6.667e-5
ep V+ 39 poly(1) 98 21 0.78925 1
en 38 V- poly(1) 21 98 0.78925 1
vh OUT 6h DC -2.4e-2
vl 6l OUT DC -2.4e-2 

m113 6h 39 V+ V+ pox l=15u w=15000u m=12
m114 6l 38 V- V- nox l=15u w=15000u m=12
c15 OUT 39 15p
c16 OUT 38 15p

.model dx d(rs=1 cjo=0.1p)

.model nix nmos(vto=0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
				+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)

.model nox nmos(vto=0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
				+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)

.model pix pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
				+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)

.model pox pmos(vto=-0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
				+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)

.ENDS OPA350

