* Differential moltage marker
*
* 10-12-2015 MDB
*
*******************************************************************************
.subckt arrActive + - o 
E1 o 0 + - gain=1
R1 o 0 100meg
.ENDS