* Voltage controlled resistor
* R=V(ctrl)*scale
*
* NOTES:	- 1u expression to avoid divide-by-zero
* 14-02-2015 MDB
*
.subckt vcr 1 2 CTRL 
R1 1 2 1E15 noiseless
G1 1 2 Value = {V(1,2)/(V(CTRL)*scale+1u)}
.ENDS VCR


.subckt vcr2 1 2 CTRL 
R1 1 2 1E15 noiseless
G1 1 2 Value = {V(1,2)/(V(CTRL)*scale+1u)}
.ENDS VCR