
.SUBCKT tlineRiso in+ in- out+ out-

T1 in+ in- out+ out- Td={Td} Z0={Z0}
R3 in+ 0 {Riso}
R4 in- 0 {Riso}
R1 out+ 0 {Riso}
R2 out- 0 {Riso}

.ENDS tlineRiso