* Z:\media\data\CODES\LTSpice_projects\messtechnik\Draft8.asc
R1 N001 A 100
Rpt A 0 {100*(1+4m*Tm)}
R3 N001 B 100
R4 B 0 100
I1 0 N001 10m
V1 Tm 0 PWL(0 0 10u 10 20u 10 20.001u 0 30u -10 40u -10 40.001u 0)
R2 Tm 0 1k
.param Tm=25
.tran 40u
* .step param Tm list 1n 1 10 100
.backanno
.end
