* Z:\home\mainster\CODES_local\LTSpice_projects\noise_snr\integ_noise_over_B.asc
R1 e a1 1k
R2 a1 0 1k
C1 a1 0 {C}
V1 e 0 SINE(0 1 {f0})
R3 e a2 .5k
C2 a2 0 {C}
XU1 a1 a jumperConfig cl={sw} R_open=100meg R_close=1u
XU2 a2 a jumperConfig cl={1-sw} R_open=100meg R_close=1u
.noise V(a) V1 dec 100 1 100k
.meas noise noiserms integ V(onoise) from 1 to {f0}
.param Temp = 20
+ sw = 1
+ C =100n
+ f0 = 10k 
.step param C 100n 200n 20n
.step param sw list 1 0
.lib MDB_sub/jumper_setable.sub
.backanno
.end
