* Z:\home\mainster\CODES_local\LTSpice_projects\noise_snr\noise_snr.asc
R2 0 0 1k noiseless
C1 out 0 1.03e-8
V1 N002 0 SINE(0 10m 10k) AC 1
R3 N001 o1 1k
V2 N001 0 SINE(0 10m 10k)
R4 o1 o2 1k
R5 o2 o3 1k
R6 o3 o4 1k
R7 N002 out {R}
* .noise V(out) V1 oct 100 10 1meg
.step dec param x 11 10meg 10
.noise V(out) V1 oct 100 10 {x}
.measure ns INTEG V(onoise)
.measure snr param -20*log10(ns)
* .noise V(o4) V2 oct 100 10 1meg
* .ac oct 100 10 1meg
.temp = 20
.param R=777
.backanno
.end
