* Z:\home\mainster\CODES_local\LTSpice_projects\noise_snr\wavRead_matlab.asc
V1 sx 0 wavefile=matlabout.wav
R1 sx sy {200+620}
C1 sy 0 10n
;tran {simtim}
.param MATLAB=1
+ fs = {1/250k}
+ f0 = 1k
+ amp = 0mV
+ N = {1024*8}
+ simtim = 100m ; {N/fs}
.wave spiceout.wav 16 256k V(sy)
.options plotwinsize = 0
.step dec param x 11 10meg 10
.noise V(sy) V1 oct 100 10 {x}
.measure ns INTEG V(onoise)
.measure snr param -20*log10(ns)
.backanno
.end
