*$
* PART NUMBER:NJM4559
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2004
.Subckt NJM4559 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1     +IN1 -IN1 V+ V- OUT1 NJM4559_SUB
X_U2     +IN2 -IN2 V+ V- OUT2 NJM4559_SUB
.ends  NJM4559
*$
.subckt NJM4559_SUB  1 2 3 4 5
  c1   11 12 8.3716E-12
  c2    6  7 29.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 3.2647E6 -1E3 1E3 3E6 -3E6
  ga    6  0 11 12 1.1982E-3
  gcm   0  6 10 99 37.890E-9
  iee   3 10 dc 60.051E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 869.70
  rc2   4 12 869.70
  re1  13 10 7.5532
  re2  14 10 7.5532
  ree  10 99 3.3305E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8065E3
  vb    9  0 dc 0
  vc    3 53 dc 1.7484
  ve   54  4 dc 1.7484
  vlim  7  8 dc 0
  vlp  91  0 dc 2.9500
  vln   0 92 dc 2.9500
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=1.0320E3)
.model qx2 PNP(Is=1.008877E-15 Bf=1.3375E3)
.ends
*$
